US06455528B1
Synthesis of N-(4-((4-(4-Acetamidophenyl)piperazin-1-yl)methyl)phenylmethyl)acetamide
To a-solution of N-(4-((4-(4-aminophenyl)piperazin-1-yl)methyl)phenylmethyl)acetamide (1.8 g) and potassium carbonate (3.1 g) in a mixed solvent of water (50 ml) and ethyl acetate (50 ml) was added dropwise acetyl chloride (0.43 ml) at room temperature over 10 min. This reaction mixture was stirred at room temperature for 4 hr and poured into saturated brine, which was followed by extraction with chloroform. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated to give a purple solid (5.0 g). The obtained solid was subjected to column chromatography (elution solvent; chloroform:methanol=9:1) to give a pale-brown solid. The solid was recrystallized from methanol-water to give the title compound (0.75 g) as pale-red crystals, m.p.=225-226° C.

reactant | N-(4-((4-(4-aminophenyl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 1.8 g | NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C20H26N4O
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
reactant | acetyl chloride | 0.43 ml | C(C)(=O)Cl | C2H3ClO
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-((4-(4-Acetamidophenyl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 5.0 g | C(C)(=O)NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C22H28N4O2
